US04736057
A stirred solution of (4,4-dimethylcyclohex-1enyl)phenyl sulphide (1.66 g.) in methanol (30.5 ml.) cooled at 0° C., was treated dropwise with a solution of potassium hydrogen persulphate ("Oxone" brand, containing 2KHSO5. KHSO4.K2SO4 ; "Oxone" is a registered trademark) (9.0 g.) in distilled water (30.5 ml.) at such a rate as to maintain the reaction temperature below 5° C. After the addition was complete, the reaction was stirred for 64 hours. The methanol was then evaporated and the residue was diluted with water (50 ml.) before extraction with ether (3×100 ml.). The combined extracts were washed successively with saturated sodium bicarbonate solution (3×50 ml.) and water (3×50 ml.), dried (MgSO4) and evaporated. The residue obtained was purified by flash chromatography on silica, eluting with ether hexane (40:60 v/v), to give (4,4-dimethyl-cyclohex-1-enyl)phenyl sulphone (1.52 g.), m.p. 51°-53° C.; NMR (CDCl3): 0.9 (6H,s), 1.45 (2H,t), 2.0-2.3 (4H,m), 7.0 (1H,br s), 7.4-7.7 (3H,m) and 7.8-8.0 (2H,m).

reactant | (4,4-dimethylcyclohex-1enyl)phenyl sulphide | 1.66 g | CC1(CC=C(CC1)SC1=CC=CC=C1)C | C14H18S
reactant | potassium hydrogen persulphate | S(=O)(=O)(O)OOS(=O)(=O)[O-].[K+]
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | water | 30.5 ml | O | H2O
solvent | methanol | 30.5 ml | CO | CH4O
product | (4,4-dimethyl-cyclohex-1-enyl)phenyl sulphone | 1.52 g | CC1(CC=C(CC1)S(=O)(=O)C1=CC=CC=C1)C | C14H18O2S
